US08754071B2
To a solution of BrCN (0.11 g, 1.1 mmol) in MeOH (10 mL) at 0° C. was added solid KOAc (0.32 g, 3.3 mmol) and a solution of aniline (0.1 mL, 1.1 mmol) in MeOH (1 mL). The reaction was stirred for 3 hours then partitioned with water (15 mL) and dichloromethane (25 mL). The organic layer was separated, washed with brine, dried over magnesium sulfate, filtered and reduced to dryness to afford N-phenylcyanamide, which was immediately used without purification.

reactant | BrCN | 1.1 mmol, 0.11 g | BrC#N | CBrN
reactant | KOAc | 3.3 mmol, 0.32 g | CC(=O)[O-].[K+]
reactant | aniline | 1.1 mmol, 0.1 mL | NC1=CC=CC=C1 | C6H7N
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 1 mL | CO | CH4O
product | N-phenylcyanamide | C1(=CC=CC=C1)NC#N | C7H6N2
